US06593325B1
d) 2-Benzyloxy-8-phenyl-6H-pyrido[2,3-d]pridazin-5-one
2-Benzoyl-6-benzyloxynicotinic acid methyl ester (1.14 g) and hydrazine monohydrate (0.40 ml) were stirred together in ethanol (50 ml) at reflux overnight. The reaction was cooled (ice bath) precipitating a solid, which was separated by filtration and washed with diethyl ether. This was 2-benzyloxy-8-phenyl-6H-pyrido[2,3-d]pridazin-5-one (0.845 g). 1H NMR (400 MHz, DMSO) δ5.42 (2H, s), 7.33 (6H, m), 7.50 (3H, m), 7.86 (2H, m), 8.51 (1H, d, J=9.7 Hz), 13.04 (1H, s); MS (ES+) m/e 330 [MH]+.

reactant | 2-Benzoyl-6-benzyloxynicotinic acid methyl ester | 1.14 g | COC(C1=C(N=C(C=C1)OCC1=CC=CC=C1)C(C1=CC=CC=C1)=O)=O | C21H17NO4
reactant | hydrazine monohydrate | 0.40 ml | O.NN
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-Benzyloxy-8-phenyl-6H-pyrido[2,3-d]pridazin-5-one | C(C1=CC=CC=C1)OC=1C=CC2=C(C(=NNC2=O)C2=CC=CC=C2)N1 | C20H15N3O2
